US07544701B2
Preparation of 1-(2-Aminoethyl)-3-[(5-chlorothien-2-yl)sulfonyl]-1,3-dihydro-2H-benzimidazol-2-one
A solution of [2-(2-oxo-2,3-dihydrobenzimidazol-1-yl)ethyl]carbamic acid t-butyl ester (27 mg, 0.1 mmol) in THF at room temperature is treated with (5-chlorothien-2-yl)sulfonyl chloride (26 mg, 0.12 mmol) followed by diisopropylethylamine (25 uL, 0.2 mmol) and 4-dimethylaminopyridine (5 mg), stirred at room temperature for 16 h and concentrated in vacuo. The resultant residue is dissolved in THF, treated with HCl in dioxane (4 N) (1 mL), stirred for 4 h and concentrated in vacuo. This residue is dissolved in a mixture of DMSO, methanol and water and purified by Gilson1 preparative HPLC to give the title product, 10 mg, [M+H] 358, retention time (RT) 2.18 minutes. 1Gilson Preparative HPLC conditions: Gilson Preparative HPLC system; YMC Pro C18, 20 mm×50 mm ID, 5 uM column; 2 mL injection; Solvent A: 0.02% TFA/water; Solvent B:0.02% TFA/acetonitrile; Gradient: Time 0: 95% A; 2 min: 95% A; 14 min: 10% A, 15 min: 10% A, 16 min: 95% A; Flow rate 22.5 mL/min; Detection: 254 nm DAD.

reactant | [2-(2-oxo-2,3-dihydrobenzimidazol-1-yl)ethyl]carbamic acid t-butyl ester | 0.1 mmol, 27 mg | C(C)(C)(C)OC(NCCN1C(NC2=C1C=CC=C2)=O)=O | C14H19N3O3
reactant | (5-chlorothien-2-yl)sulfonyl chloride | 0.12 mmol, 26 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | diisopropylethylamine | 0.2 mmol, 25 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(2-Aminoethyl)-3-[(5-chlorothien-2-yl)sulfonyl]-1,3-dihydro-2H-benzimidazol-2-one | NCCN1C(N(C2=C1C=CC=C2)S(=O)(=O)C=2SC(=CC2)Cl)=O | C13H12ClN3O3S2
